US03963783
A mixture of 50 g. of sec.-myrcenol (prepared according to the method described in paragraph b) above), 300 g. of n-butyl vinyl ether, 1 g. of mercuric acetate and 10 g. of sodium acetate were refluxed for 40 hours (120°) under nitrogen. During this heating period 1 g. of additional mercuric acetate was added every 6 hours. The laboratory vessel was connected to a downward directed condenser, and the excess of n-butyl vinyl ether was distilled under ordinary pressure. The residue was distilled under vacuum. A yield of 75% of 4-methyl-8-vinyl-4,8-nonadienal that contained approximately 15% of unreacted alcohol was obtained. This alcohol could be recovered when the above C12 aldehyde was converted to β-sinensal.

reactant | myrcenol | CC(C)(CCCC(=C)C=C)O | C10H18O
reactant | n-butyl vinyl ether | C(=C)OCCCC | C6H12O
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
product | 4-methyl-8-vinyl-4,8-nonadienal | yield of 75% | CC(CCC=O)=CCCC(=C)C=C | C12H18O
